US07452909B2
3-Chloro-5-(chloromethyl)pyridine hydrochloride
The title compound was prepared in accordance with the general method of example E from 5-(hydroxymethyl)-3-chloropyridine and thionylchloride.

reactant | 5-(hydroxymethyl)-3-chloropyridine | OCC=1C=C(C=NC1)Cl | C6H6ClNO
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
product | 3-Chloro-5-(chloromethyl)pyridine hydrochloride | Cl.ClC=1C=NC=C(C1)CCl | InChI=1S/C6H5Cl2N.ClH/c7-2-5-1-6(8)4-9-3-5;/h1,3-4H,2H2;1H
